US06635633B2
C. 6-Fluoro-3-piperidin-4-yl-benzo[b]thiophene-2-carboxylic acid methyl ester hydrochloride salt
A solution of 24.4 g (66.8 mmol) of 3-(1-acetyl-piperidin-4-yl)-6-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester in 400 mL of MeOH and 50 mL of concentrated HCl was heated a reflux for 2 days. When the solution was allowed to cool to room temperature the white precipitate was filtered, washed with methanol and dried to give 17.9 g (74%) of product as a white powder. MS (electrospray): exact mass calculated for C15H16FNO2S, 293.09; m/z found, 294.1 [M+H]+. 1H NMR (DMSO-d6, 400 MHz): 9.38 (br s, 1H), 9.02 (br s, 1H), 8.60 (dd, J=9.19, 5.09 Hz, 1H), 7.98 (dd, J=9.00, 2.54 Hz, 1H), 7.36 (dt, J=9.00, 2.54 Hz, 1H), 4.37 (br t, J=12.72 Hz, 1H), 3.87 (s, 3H), 3.40 (br d, J=11.93 Hz, 2H), 3.02 (q, J=11.35 Hz, 2H), 2.61 (dq, J=13.30, 3.72 Hz, 2H), 1.77 (br d, J=12.91 Hz, 2H).

reactant | 3-(1-acetyl-piperidin-4-yl)-6-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester | 66.8 mmol, 24.4 g | COC(=O)C1=C(C2=C(S1)C=C(C=C2)F)C2CCN(CC2)C(C)=O | C17H18FNO3S
reactant | HCl | 50 mL | Cl | ClH
solvent | MeOH | 400 mL | CO | CH4O
product | 6-Fluoro-3-piperidin-4-yl-benzo[b]thiophene-2-carboxylic acid methyl ester hydrochloride salt | 17.9 g, 74% | Cl.COC(=O)C1=C(C2=C(S1)C=C(C=C2)F)C2CCNCC2 | InChI=1S/C15H16FNO2S.ClH/c1-19-15(18)14-13(9-4-6-17-7-5-9)11-3-2-10(16)8-12(11)20-14;/h2-3,8-9,17H,4-7H2,1H3;1H
